US08293768B2
Synthesis of 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methyl-N-((5-methylfuran-2-yl)methyl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 4-fluorobenzylamine with 5-methylfurfurylamine to react with 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a white powder in 29% yield: mp 138-139° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.36-7.25 (m, 5H), 6.10 (d, J=2.7 Hz, 1H), 5.90-5.86 (m, 2H), 4.50-4.44 (m, 4H), 4.04 (t, J=8.1 Hz, 2H), 3.43 (t, J=8.1 Hz, 2H), 2.58 (s, 3H), 2.24 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 162.1, 157.3, 155.4, 153.1, 152.1, 148.9, 135.5, 128.8, 128.3, 128.0, 117.1, 108.5, 106.3, 47.9, 42.0, 41.6, 37.0, 17.1, 13.5; MS (ES+) m/z 411.3 (M+1).

reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 5-methylfurfurylamine | CC1=CC=C(CN)O1 | C6H9NO
reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
product | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methyl-N-((5-methylfuran-2-yl)methyl)thiazole-5-carboxamide | 29% yield | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC=1OC(=CC1)C)=O | C21H22N4O3S
